US07851490B2
2-[1-[1-(3-(Pyrazin-2-yl)-phenyl)-1H-benzoimidazol-5-yl]-ethyl]-isoindole-1,3-dione
This was prepared analogously from 2-{1-[1-(3-bromo-phenyl)-1H-benzoimidazol-5-yl]-ethyl}-isoindole-1,3-dione and 2-tributylstannylpyrazine.

reactant | 2-{1-[1-(3-bromo-phenyl)-1H-benzoimidazol-5-yl]-ethyl}-isoindole-1,3-dione | BrC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)N2C(C1=CC=CC=C1C2=O)=O | C23H16BrN3O2
reactant | 2-tributylstannylpyrazine | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
product | 2-[1-[1-(3-(Pyrazin-2-yl)-phenyl)-1H-benzoimidazol-5-yl]-ethyl]-isoindole-1,3-dione | N1=C(C=NC=C1)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)N2C(C1=CC=CC=C1C2=O)=O | C27H19N5O2
